US07238689B2
24.3 g (100.0 mmoles) of 5-bromo-4-hydroxy-6-trifluoromethylpyrimidine was suspended in 18.5 g (120.0 mmoles) of phosphorus oxychloride. The mixture was stirred at 100° C. for 2 hours to give rise to a reaction. After confirmation of the completion of the reaction, the reaction mixture was poured into water gradually, followed by extraction with chloroform. The resulting organic layer was washed with water and an aqueous sodium chloride solution in this order and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein. The residue was purified by silica gel column chromatography to obtain 21.5 g (yield: 82.4%) of 5-bromo-4-chloro-6-trifluoromethylpyrimidine.

reactant | 5-bromo-4-hydroxy-6-trifluoromethylpyrimidine | 100.0 mmoles, 24.3 g | BrC=1C(=NC=NC1C(F)(F)F)O | C5H2BrF3N2O
reactant | phosphorus oxychloride | 120.0 mmoles, 18.5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | O | H2O
product | 5-bromo-4-chloro-6-trifluoromethylpyrimidine | 21.5 g, yield: 82.4% | BrC=1C(=NC=NC1C(F)(F)F)Cl | C5HBrClF3N2
